US05094938
200 ml of N,N-dimethylformamide was added to 18.3 g of ethyl salicylate, and 34.5 g of potassium carbonate and 24.9 g of lauryl bromide were added thereto dropwise over about 30 min with stirring on a steam bath. After the addition the reaction mixture was heated for 2 hours with stirring, then after cooling it was transferred into a separately funnel, and 300 ml of ethyl acetate and 1l of water were added for extraction. The ethyl acetate solution was washed with dilute hydrochloric acid and then with an aqueous sodium hydrogencarbonate solution and was concentrated, to obtain an oil of 2-dodecyloxybenzoic acid ethyl ester. The oil was dissolved in 300 ml of ethanol, and a solution of 12 g of sodium hydroxide in 50 ml of water was added dropwise thereto over about 10 min at room temperature with stirring. After the addition stirring was continued for 1 hour further and 30 ml of concentrated hydrochloric acid diluted with 300 ml of water was added dropwise. The deposited crystals were filtered, washed with water, and dried to obtain 29.1 g of 2-dodecyloxybenzoic acid.

reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | ethyl salicylate | 18.3 g | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | potassium carbonate | 34.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | lauryl bromide | 24.9 g | C(CCCCCCCCCCC)Br | C12H25Br
solvent | water | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-dodecyloxybenzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)OCCCCCCCCCCCC)=O | C21H34O3
